US04394515
3-Cyano-10,11-dihydrodibenzo[b,f]thiepin
4.61 G. 3-bromo-10,11-dihydrodibenzo[b,f]thiepin and 4.3 g. cuprous cyanide are refluxed in 50 cc. dimethylformamide for 51/2 hours. The mixture is poured onto ice and the solid filtered. The solid is triturated with chloroform and filtered. The chloroform is evaporated to yield 4.5 g. residue which is chromatographed on silica gel. Elution with benzene affords 2.83 g. (75.4%) of the desired pure oily compound which crystallizes on standing. Elution with ethyl acetate gives 440 mg. 10,11-dihydrodibenzo[b,f]thiepin-3-carboxylic acid amide as a white solid, m.p. 145°-147° C.

reactant | 3-bromo-10,11-dihydrodibenzo[b,f]thiepin | BrC=1C=CC2=C(SC3=C(CC2)C=CC=C3)C1 | C14H11BrS
reactant | 10,11-dihydrodibenzo[b,f]thiepin-3-carboxylic acid amide | C1=CC(=CC=2SC3=C(CCC21)C=CC=C3)C(=O)N | C15H13NOS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-Cyano-10,11-dihydrodibenzo[b,f]thiepin | C(#N)C=1C=CC2=C(SC3=C(CC2)C=CC=C3)C1 | C15H11NS
